US06627581B1
4-[2-Methyl-3-(2-oxa-3-aza-bicyclo[3.1.0]hex-3-en-4-yl)-4-methylsulfonylbenzoyl]-5-hydroxy-1-tert-butyl-1H-pyrazole (compound 2.1)
At room temperature, 0.17 g (1.50 mmol) of potassium tert-butoxide was added to a solution of 0.23 g (0.51 mmol) of 4-[2-methyl-3-(5-chloromethyl-4,5-dihydroisoxazol-3-yl)-4-methylsulfonylbenzoyl]-5-hydroxy-1-tert-butyl-1H-pyrazole in 2.5 ml of dimethyl sulfoxide, and the mixture was stirred overnight. The mixture was then stirred into 300 ml of 3% strength aqueous hydrochloric acid, the aqueous phase was extracted three times with in each case 200 ml of ethyl acetate and the combined organic phases were washed four times with in each case 50 ml of water, dried over sodium sulfate and concentrated under reduced pressure. This gave 0.12 g (57%) of the title compound in the form of a brown solid of melting point 69-74° C.

reactant | potassium tert-butoxide | 1.50 mmol, 0.17 g | CC(C)([O-])C.[K+]
reactant | 4-[2-methyl-3-(5-chloromethyl-4,5-dihydroisoxazol-3-yl)-4-methylsulfonylbenzoyl]-5-hydroxy-1-tert-butyl-1H-pyrazole | 0.51 mmol, 0.23 g | CC1=C(C(=O)C=2C=NN(C2O)C(C)(C)C)C=CC(=C1C1=NOC(C1)CCl)S(=O)(=O)C | C20H24ClN3O5S
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | 4-[2-Methyl-3-(2-oxa-3-aza-bicyclo[3.1.0]hex-3-en-4-yl)-4-methylsulfonylbenzoyl]-5-hydroxy-1-tert-butyl-1H-pyrazole | CC1=C(C(=O)C=2C=NN(C2O)C(C)(C)C)C=CC(=C1C1=NOC2CC12)S(=O)(=O)C | C20H23N3O5S
